US06153652
Synthesis of N-(4-phenylbutanoyl)-L-alanine iso-butyl ester
Following General Procedure B' and using 4-phenylbutanoic acid (Aldrich) and L-alanine iso-butyl ester hydrochloride (from Example B' above), the title compound was prepared as an oil. The reaction was monitored by tlc on silica gel and purification was by extraction with Et2O followed by washes with aqueous K2CO3 and aqueous HCl.

reactant | 4-phenylbutanoic acid | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | L-alanine iso-butyl ester hydrochloride | Cl.C(C(C)C)OC([C@@H](N)C)=O
product | N-(4-phenylbutanoyl)-L-alanine iso-butyl ester | C(C(C)C)OC([C@@H](NC(CCCC1=CC=CC=C1)=O)C)=O | C17H25NO3
